US06498251B1
5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid (300 mg, 1.1 mmol), potassium carbonate (150 mg, 1.1 mol) and methyl iodide (150 mg, 1.1 mmol) were stirred at room temperature for 4.5 hours in anhydrous N,N-dimethylformamide (3 ml). The reaction solution was mixed with ethyl acetate, washed with water and saturated brine and then dried with anhydrous sodium sulfate to obtain crude 5-t-butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid methyl ester. This was mixed with hydrochloric acid-saturated methanol (4 ml) and stirred at room temperature for 14 hours. By evaporating the solvent from the reaction solution under a reduced pressure, crude 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid methyl ester hydrochloride was obtained. This compound and triethylamine (0.59 ml, 4.2 mmol) and 2a-(4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (310 mg, 1.0 mmol) were stirred at room temperature for 24 hours in anhydrous N,N-dimethylformamide (10 ml). The reaction solution was mixed with ethyl acetate, washed with water and saturated brine and then dried with anhydrous sodium sulfate. The solvent was removed by evaporation under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 240 mg (0.56 mmol, 56% in yield) of the title compound.

reactant | 5-t-Butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid | 1.1 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C(=O)O | C13H17NO4S
reactant | potassium carbonate | 1.1 mol, 150 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.1 mmol, 150 mg | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-t-butoxycarbonyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-2-carboxylic acid methyl ester | COC(=O)C1=CC=2CN(CCC2S1)C(=O)OC(C)(C)C | C14H19NO4S
